2156-01-12 07:38:00 Physician Resident Progress Note
Chief Complaint: Resp failure
   24 Hour Events:
 INVASIVE VENTILATION - START [**2156-1-11**] 06:21 PM
 EKG - At [**2156-1-11**] 08:30 PM
 SPUTUM CULTURE - At [**2156-1-11**] 08:30 PM
 ARTERIAL LINE - START [**2156-1-11**] 10:13 PM
 URINE CULTURE - At [**2156-1-12**] 12:11 AM
   - The patient's first gas s/p intubation showed a continued elevation
   of pCO2 so his RR was increased and his volume was increased.
   - An A-line was placed.
   - He dropped his SBPs to the 80s after getting midazolam boluses, but
   increased with 500 cc of NS boluses x 2.  After the second boluses had
   increased again, but then his SBP drifted down to the 80's.  He was on
   coumadin and has an elevated INR so subclavian line was not attempted.
   IJs were very small/hard to locate on US and given his history of
   radiation to the head and neck IJ wasn't attempted.  Attempted a right
   femoral line without success.  He was given another 2 500 cc NS boluses
   as he appeared very dry. Did not require pressors. Has PIVs.
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2156-1-11**] 08:00 PM
   Cefipime - [**2156-1-11**] 10:07 PM
   Metronidazole - [**2156-1-12**] 02:15 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2156-1-11**] 06:40 PM
   Fentanyl - [**2156-1-11**] 06:40 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: No pain / appears comfortablePain location: pt denies any pain
   Flowsheet Data as of  [**2156-1-12**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.2
C (98.9
   HR: 80 (60 - 111) bpm
   BP: 118/55(77) {81/39(54) - 131/62(85)} mmHg
   RR: 23 (12 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,162 mL
                                                                  1,724 mL
   PO:
             TF:
   IVF:
                                                                  1,002 mL
                                                                  1,724 mL
   Blood products:
   Total out:
                                                                    655 mL
                                                                    153 mL
   Urine:
                                                                    455 mL
                                                                    153 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                    507 mL
                                                                  1,571 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (45 - 450) mL
   Vt (Spontaneous): 686 (686 - 686) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 64
   PIP: 29 cmH2O
   Plateau: 20 cmH2O
   Compliance: 30 cmH2O/mL
   SpO2: 98%
   ABG: 7.36/55/107/29/3
   Ve: 11 L/min
   PaO2 / FiO2: 214
   Physical Examination
   General Appearance: No acute distress, Thin
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), [**2-13**]
   systolic murmur radiating to carotids
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Sedated, Tone: Normal
   Labs / Radiology
   347 K/uL
   8.4 g/dL
   89 mg/dL
   0.4 mg/dL
   29 mEq/L
   4.0 mEq/L
   17 mg/dL
   103 mEq/L
   141 mEq/L
   26.8 %
   11.8 K/uL
        [image002.jpg]
                             [**2156-1-11**]  06:42 PM
                             [**2156-1-11**]  08:01 PM
                             [**2156-1-11**]  11:07 PM
                             [**2156-1-12**]  04:23 AM
                             [**2156-1-12**]  04:39 AM
   WBC
   19.9
   11.8
   Hct
   34.2
   26.8
   Plt
   615
   347
   Cr
   0.6
   0.4
   TCO2
   38
   34
   32
   Glucose
   126
   89
   Other labs: PT / PTT / INR:35.4/34.9/3.7, ALT / AST:14/32, Alk Phos / T
   Bili:174/0.3, Lactic Acid:0.8 mmol/L, Albumin:3.4 g/dL, LDH:378 IU/L,
   Ca++:8.4 mg/dL, Mg++:2.1 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 PNEUMONIA, ASPIRATION
 HYPOTENSION (NOT SHOCK)
   Assesment: This is a 65 year-old male with a history of SCC of the
   tounge found to have mets s/p Cetuximab, afib, COPD, CHF EF 35-40%, who
   was admitted to OMED for pneumonia, likely aspiration, now with
   worsening hypoxia and hypercarbia, intubated for respiratory distress.
   Plan:
   # Respiratory Distress: continued hypoxia requiring NRB, with worsening
   hypercarbia in the setting of COPD.  Likely etiology includes
   aspiration PNA, HAP superinfection, CHF exacerbation, COPD
   exacerbation.  Leukocytosis improving, XRAY with effusion, ?
   parapneumonic effusion.  Also with ? worsening volume overload.
   Intubated for worsening hypoxia and hypercarbia
   - Lasix 20 IV daily for now; goal I/O -500 to -1L
   - vanco/cefepime/flagyl to cover for aspiration and HAP given worsening
   O2 status
   - standing nebs
   - consider diagnostic thoracentesis
   - chest PT
   - fent/versed for sedation
   - CXR to eval placement of tube
   - AM CXR
   # CHF- EF 35-45% in [**2152**];  XRAY with ? worsening volume overload.  On
   furosemide 20 mg PO BID, was given lasix IV x 1 last night and x 1
   today.
   - cont b-blocker, statin.  start furosemide 20 mg IV daily for goal I/O
   -500 to -1L
   - cont dig, check dig level in AM
   - repeat ECHO
   - ECG with TWI in I/aVL otherwise unchanged
   - hold lisinopril in the setting of hyperkalemia
   - hold nitrates for BP
   # ? COPD: only on albuterol as outpt. Last spirometry in 06 more c/w
   restrictive rather than obstructive disease.  Some wheezing on exam,
   but likely due to the significant PNA.
   - standing nebs for now
   - no steroids for now; monitor clinical status
   # Atrial Fibrillation- on amio and toprol XL.  also on coumadin.
   therapeutic INR
   - cont amio, dig, and toprol.
   - cont coumadin, goal INR [**1-13**]
   # [**Name (NI) 5469**] unclear etiology. ? from chemotherapy.  no ECG changes
   concerning for hyperkalemia
   - recheck CK
   - check LFTs
   - kayexalate x 1
   - hold lisinopril
   # FEN:  NPO for now; if intubated for >48 hrs can consider starting
   tube feeds
   - goal I/O -1L
   # Access: 2 PIV
   # PPx: therapeutic INR; cont outpt PPI
   # Code: FULL CODE; living will in place- per partner, would not want
   long term artificial support.
   # Dispo: ICU for now
   # Comm: partner [**Name (NI) **] ph# [**Telephone/Fax (1) 5470**]
   ICU Care
   Nutrition: NPO
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2156-1-11**] 06:38 PM
   Arterial Line - [**2156-1-11**] 10:13 PM
   20 Gauge - [**2156-1-12**] 12:38 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2156-01-13 07:56:00 Physician Resident Progress Note
Chief Complaint: resp failure
   24 Hour Events:
 BRONCHOSCOPY - At [**2156-1-12**] 03:55 PM
 ARTERIAL LINE - STOP [**2156-1-13**] 05:00 AM
   -Maalox D/C'd
   -Got bronchoscopy with BAL (thick seretions noted)
   -Ordered for [**Female First Name (un) 217**] and marked, got FFP
   -went into AFL w/ rate of 150 after bronch so no [**Female First Name (un) 217**].  Got dilt 10 iv
   x 3, metoprolol 5 iv x 1 with return to sinus. changed metoprolol to 75
   tid
   -got second dose of metoprolol 5 iv x 1 again for another episode of
   tach (mixed AFL, AF)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2156-1-12**] 08:00 PM
   Cefipime - [**2156-1-12**] 09:51 PM
   Metronidazole - [**2156-1-13**] 02:08 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Diltiazem - [**2156-1-12**] 05:50 PM
   Metoprolol - [**2156-1-13**] 04:49 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: limited [**1-12**] intubation and sedation but denies pain
   Flowsheet Data as of  [**2156-1-13**] 07:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 90 (76 - 140) bpm
   BP: 117/70(82) {117/61(78) - 124/70(82)} mmHg
   RR: 16 (11 - 25) insp/min
   SpO2: 98%
   Heart rhythm: A Flut (Atrial Flutter)
   Height: 73 Inch
             Total In:
                                                                  3,924 mL
                                                                    253 mL
   PO:
             TF:
   IVF:
                                                                  2,818 mL
                                                                    253 mL
   Blood products:
                                                                  1,046 mL
   Total out:
                                                                    978 mL
                                                                    415 mL
   Urine:
                                                                    978 mL
                                                                    415 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,946 mL
                                                                   -162 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 677 (450 - 677) mL
   PS : 20 cmH2O
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 49%
   RSBI: 74
   PIP: 26 cmH2O
   SpO2: 98%
   ABG: 7.37/56/103/30/4
   Ve: 9.2 L/min
   PaO2 / FiO2: 206
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   diffusely worse at bases)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Sedated, Tone: Normal
   Labs / Radiology
   334 K/uL
   8.4 g/dL
   71 mg/dL
   0.4 mg/dL
   30 mEq/L
   3.6 mEq/L
   14 mg/dL
   105 mEq/L
   144 mEq/L
   26.7 %
   9.7 K/uL
        [image002.jpg]
                             [**2156-1-11**]  06:42 PM
                             [**2156-1-11**]  08:01 PM
                             [**2156-1-11**]  11:07 PM
                             [**2156-1-12**]  04:23 AM
                             [**2156-1-12**]  04:39 AM
                             [**2156-1-12**]  11:36 AM
                             [**2156-1-13**]  04:37 AM
   WBC
   19.9
   11.8
   9.7
   Hct
   34.2
   26.8
   26.7
   Plt
   [**Telephone/Fax (3) 5511**]
   Cr
   0.6
   0.4
   0.4
   TCO2
   38
   34
   32
   34
   Glucose
   126
   89
   71
   Other labs: PT / PTT / INR:26.8/31.3/2.7, ALT / AST:14/32, Alk Phos / T
   Bili:174/0.3, Differential-Neuts:87.6 %, Lymph:6.1 %, Mono:5.4 %,
   Eos:0.7 %, Lactic Acid:0.8 mmol/L, Albumin:3.4 g/dL, LDH:378 IU/L,
   Ca++:7.9 mg/dL, Mg++:2.0 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
 ATRIAL FLUTTER (AFLUTTER)
 IMPAIRED SKIN INTEGRITY
 PNEUMONIA, ASPIRATION
 HYPOTENSION (NOT SHOCK)
   Assesment: This is a 65 year-old male with a history of SCC of the
   tounge found to have mets s/p Cetuximab, afib, COPD, CHF EF 35-40%, who
   was admitted to OMED for pneumonia, likely aspiration, now with
   worsening hypoxia and hypercarbia, intubated for respiratory distress
   on [**2156-1-11**].
   Plan:
   # Respiratory Distress: Stable on a/c today. Skeptical pressure support
   vent settings will be possible as <48 hrs after pt intubated [**1-12**]
   fatigue.  Likely etiology of PNA  includes aspiration PNA vs HAP
   superinfection.  No cultures yet positive.  Leukocytosis improving.
    - BAL today followed by FFP then [**Female First Name (un) 217**].
   -  cont vanco/cefepime/flagyl to cover for aspiration and HAP
   -cont  standing nebs
   -cont  chest PT
   -cont  fent/versed for sedation
   - CXR s/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 217**]
   - AM CXR
   - Trial PS 20, PEEP 5
   # CHF- EF 35-45% in [**2152**];
   - cont b-blocker, statin.  start furosemide 20 mg IV daily for goal I/O
   -500 to -1L
   - cont dig, level 0.7  this am. Would consider increasing dose tomorrow
   - repeat ECHO today
   - hold lisinopril in the setting of borderline hypotension
   - hold nitrates for BP
   # ? COPD: only on albuterol as outpt. Last spirometry in 06 more c/w
   restrictive rather than obstructive disease. Minimal wheezing on exam,
   but likely due to the significant PNA.
   - standing nebs for now
   - no steroids for now; monitor clinical status
   # Atrial Fibrillation- on amio and toprol XL.  also on coumadin. supra
   therapeutic INR
   - cont amio, dig, and toprol.
   - holding coumadin while INR supratherapeutic
   # Hyperkalemia- Now resolved. Will monitor.
   # FEN:  TF ordered today after nutrition consulted
   # Access: 2 PIV . Consider CVL  if needs pressors.
   # PPx: supratherapeutic INR; PPI changed to lansoprazole
   # Code: FULL CODE; living will in place- per partner, would not want
   long term artificial support.
   # Dispo: ICU for now
   # Comm: partner [**Name (NI) **] ph# [**Telephone/Fax (1) 5470**]- called today and left message.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2156-1-11**] 06:38 PM
   20 Gauge - [**2156-1-12**] 12:38 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2156-01-13 11:46:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
    BRONCHOSCOPY - At [**2156-1-12**] 03:55 PM
   ARTERIAL LINE - STOP [**2156-1-13**] 05:00 AM
   A flutter, now controlled
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2156-1-13**] 08:00 AM
   Metronidazole - [**2156-1-13**] 09:31 AM
   Cefipime - [**2156-1-13**] 10:30 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Diltiazem - [**2156-1-12**] 05:50 PM
   Metoprolol - [**2156-1-13**] 04:49 AM
   Lansoprazole (Prevacid) - [**2156-1-13**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-1-13**] 11:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.2
C (99
   HR: 93 (76 - 140) bpm
   BP: 135/72(88) {115/55(70) - 135/78(90)} mmHg
   RR: 16 (11 - 20) insp/min
   SpO2: 95%
   Heart rhythm: A Flut (Atrial Flutter)
   Height: 73 Inch
             Total In:
                                                                  3,924 mL
                                                                    742 mL
   PO:
             TF:
   IVF:
                                                                  2,818 mL
                                                                    742 mL
   Blood products:
                                                                  1,046 mL
   Total out:
                                                                    978 mL
                                                                    650 mL
   Urine:
                                                                    978 mL
                                                                    650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,946 mL
                                                                     92 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 565 (546 - 677) mL
   PS : 20 cmH2O
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 74
   PIP: 26 cmH2O
   SpO2: 95%
   ABG: ///30/
   Ve: 9.2 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Diminished: bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.4 g/dL
   334 K/uL
   71 mg/dL
   0.4 mg/dL
   30 mEq/L
   3.6 mEq/L
   14 mg/dL
   105 mEq/L
   144 mEq/L
   26.7 %
   9.7 K/uL
        [image002.jpg]
                             [**2156-1-11**]  06:42 PM
                             [**2156-1-11**]  08:01 PM
                             [**2156-1-11**]  11:07 PM
                             [**2156-1-12**]  04:23 AM
                             [**2156-1-12**]  04:39 AM
                             [**2156-1-12**]  11:36 AM
                             [**2156-1-13**]  04:37 AM
   WBC
   19.9
   11.8
   9.7
   Hct
   34.2
   26.8
   26.7
   Plt
   [**Telephone/Fax (3) 5511**]
   Cr
   0.6
   0.4
   0.4
   TCO2
   38
   34
   32
   34
   Glucose
   126
   89
   71
   Other labs: PT / PTT / INR:26.8/31.3/2.7, ALT / AST:14/32, Alk Phos / T
   Bili:174/0.3, Differential-Neuts:87.6 %, Lymph:6.1 %, Mono:5.4 %,
   Eos:0.7 %, Lactic Acid:0.8 mmol/L, Albumin:3.4 g/dL, LDH:378 IU/L,
   Ca++:7.9 mg/dL, Mg++:2.0 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   65 yo male with history of SCCa--tounge who has metastatsis to sternum
   and is now admitted for pneumonia--concerning for aspiration and now to
   ICU with hypoxemic respiratory failure.  He has had significant
   hyptension in this setting consistent with sepsis in the setting of
   pulmonary source.  Multiple attempts at CVL placement failed to result
   in successful placement.
 PNEUMONIA, ASPIRATION
 HYPOTENSION (NOT SHOCK)
   Respiratory Failure-The source of his failure is incompletely defined.
   He presented with symptoms of fever and infiltrate suggestive of
   pneumonia.  He had persistent respiratory compromise and with fatigue
   and hypercarbia patient with resultant intubation.  He has reasonable
   airway pressures on the ventilator.  This is in the setting of known
   but mild chronic obstructive disease.
   -Will move to PSV at 20/5 to allow more physiologic and comfortable
   support
   -Will have to monitor patient tolerance
   Pneumonia-patient with likely aspiration pneumonia as part of pneumonia
   presentation, in addition
patient may have viral or atypical infection,
   patient has previous radiation and pneumonitis is possible, alveolar
   hemorrhage is similar in appearance but less likely, PCP/Fungal would
   be less likely with normal ANC and WBC count but infiltrate is
   consistent.  In addition
medication effects will have to be evaluated
   as possible contributor with chemotherapy and amiodarone.
   -Vanco/Cefepime/Flagyl to continue
   -Will evaluate pleural fluid in the setting of persistent infectious
   symptoms
   -Bronchoscopy to evaluate for alternative pathogens and thoracentesis
   Sepsis
Patient with criteria met and likely pulmonary source
   -IVF bolus
   -Will need reasonable CVL
   -Will need to continue to follow cultures and expand samples
   -ECHO today with new murmur
will need to reverse anticoagulation to
   allow evaluations to safely proceed.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2156-1-11**] 06:38 PM
   20 Gauge - [**2156-1-12**] 12:38 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent: 35 minutes
   Patient is critically ill

2156-01-14 07:27:00 Physician Resident Progress Note
Chief Complaint: resp failure [**1-12**] PNA
   24 Hour Events:
 THORACENTESIS - At [**2156-1-13**] 05:30 PM
   -BB titrated up to 100 mg PO Q8hrs
   -Weaned off pressors
   -Had thoracentesis
   -Continued to be tachycardic but in range of 100 to high 80's
   -Weaned to [**4-13**]
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2156-1-13**] 09:31 AM
   Cefipime - [**2156-1-13**] 10:30 AM
   Vancomycin - [**2156-1-13**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2156-1-14**] 02:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 80 mcg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2156-1-13**] 08:00 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: unable to complete [**1-12**] sedation
   Flowsheet Data as of  [**2156-1-14**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.9
C (98.5
   HR: 89 (74 - 121) bpm
   BP: 135/67(85) {112/55(70) - 146/78(95)} mmHg
   RR: 18 (11 - 26) insp/min
   SpO2: 98%
   Heart rhythm: A Flut (Atrial Flutter)
   Height: 73 Inch
             Total In:
                                                                  2,294 mL
                                                                    541 mL
   PO:
             TF:
                                                                    206 mL
                                                                    274 mL
   IVF:
                                                                  1,373 mL
                                                                    268 mL
   Blood products:
                                                                    544 mL
   Total out:
                                                                  1,105 mL
                                                                    350 mL
   Urine:
                                                                  1,105 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,189 mL
                                                                    191 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 419 (305 - 565) mL
   PS : 5 cmH2O
   RR (Spontaneous): 21
   PEEP: 0 cmH2O
   FiO2: 50%
   RSBI: 56
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: ///40/
   Ve: 7.7 L/min
   Physical Examination
   General Appearance: No acute distress, Thin
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Sedated, Tone: Not assessed
   Labs / Radiology
   397 K/uL
   9.3 g/dL
   121 mg/dL
   0.4 mg/dL
   40 mEq/L
   3.4 mEq/L
   15 mg/dL
   103 mEq/L
   149 mEq/L
   29.4 %
   10.5 K/uL
        [image002.jpg]
                             [**2156-1-11**]  06:42 PM
                             [**2156-1-11**]  08:01 PM
                             [**2156-1-11**]  11:07 PM
                             [**2156-1-12**]  04:23 AM
                             [**2156-1-12**]  04:39 AM
                             [**2156-1-12**]  11:36 AM
                             [**2156-1-13**]  04:37 AM
                             [**2156-1-14**]  03:44 AM
   WBC
   19.9
   11.8
   9.7
   10.5
   Hct
   34.2
   26.8
   26.7
   29.4
   Plt
   [**Telephone/Fax (3) 5530**]97
   Cr
   0.6
   0.4
   0.4
   0.4
   TCO2
   38
   34
   32
   34
   Glucose
   126
   89
   71
   121
   Other labs: PT / PTT / INR:31.7/31.4/3.3, ALT / AST:14/32, Alk Phos / T
   Bili:174/0.3, Differential-Neuts:89.4 %, Lymph:4.9 %, Mono:4.3 %,
   Eos:1.2 %, Lactic Acid:0.8 mmol/L, Albumin:3.4 g/dL, LDH:390 IU/L,
   Ca++:7.9 mg/dL, Mg++:2.2 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
 ATRIAL FLUTTER (AFLUTTER)
 IMPAIRED SKIN INTEGRITY
 PNEUMONIA, ASPIRATION
 HYPOTENSION (NOT SHOCK)
   Assessment: This is a 65 year-old male with a history of SCC of the
   tounge found to have mets s/p Cetuximab, afib, COPD, CHF EF 35-40%, who
   was admitted to OMED for pneumonia, likely aspiration, intubated for
   respiratory distress on [**2156-1-11**].
   Plan:
   # Respiratory Failure: Stable on PS 5, PEEP 5 overnight.  Likely
   etiology of PNA  includes aspiration PNA vs HAP superinfection- did not
   approve on the floor on levo.  No cultures yet positive.  Leukocytosis
   improving. BAL [**1-12**] with NGTD as is thoracentesis from [**1-13**].
   -  cont vanco/Zosyn  to cover for aspiration and HAP
   -cont  standing nebs
   -cont  chest PT
   - Cont humidified shovel mask today for O2- wean as tolerated.
   # CHF- EF 35-45% in [**2152**];  Echo [**1-13**] with no major change- 30-40% LVEF.
   Mild MR.
   - cont b-blocker- metprolol at  100 TID, dig, statin.
   - Consider restarting lisinopril if hypertensive today
   - hold nitrates for BP
    # ? COPD: only on albuterol as outpt. Last spirometry in 06 more c/w
   restrictive rather than obstructive disease. Minimal wheezing on exam,
   but likely due to the significant PNA.
   - standing nebs for now
   - no steroids for now; monitor clinical status
    # Atrial Fibrillation- on amio and metoprolol (toprol XL at home).
   also on coumadin at home. Supra therapeutic INR 3.3 today
   - cont amio, dig, and toprol.
   - holding coumadin until INR comes down
   # Hyperkalemia- Now resolved. Will monitor.
   # Access: 2 PIV .
   # PPx: therapeutic INR; PPI
   # Code: FULL CODE; living will in place- per partner, would not want
   long term artificial support.
   # Dispo: ICU for now
   # Comm: partner [**Name (NI) **] ph# [**Telephone/Fax (1) 5470**]- talked with him today
   ICU Care
   Nutrition: NPO- slight aspiration with fluids appox 4 hrs after
   extubation so will give a little more time prior to retrying.
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2156-1-11**] 06:38 PM
   20 Gauge - [**2156-1-12**] 12:38 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2156-01-14 10:52:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 THORACENTESIS - At [**2156-1-13**] 05:30 PM--Transudative
   -PSV wean to [**4-13**]
   -Patient with unplanned extubation this am following wean of sedation
   -Pressors off
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2156-1-13**] 09:31 AM
   Cefipime - [**2156-1-13**] 10:30 AM
   Vancomycin - [**2156-1-14**] 07:36 AM
   Piperacillin/Tazobactam (Zosyn) - [**2156-1-14**] 08:50 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Tachycardia
   Respiratory: Cough, Tachypnea
   Flowsheet Data as of  [**2156-1-14**] 10:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.3
C (99.1
   HR: 101 (74 - 121) bpm
   BP: 142/64(91) {112/60(79) - 149/86(101)} mmHg
   RR: 30 (12 - 30) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 73 Inch
             Total In:
                                                                  2,294 mL
                                                                    881 mL
   PO:
             TF:
                                                                    206 mL
                                                                    274 mL
   IVF:
                                                                  1,373 mL
                                                                    607 mL
   Blood products:
                                                                    544 mL
   Total out:
                                                                  1,105 mL
                                                                    580 mL
   Urine:
                                                                  1,105 mL
                                                                    580 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,189 mL
                                                                    301 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 415 (305 - 565) mL
   PS : 5 cmH2O
   RR (Spontaneous): 22
   PEEP: 0 cmH2O
   FiO2: 50%
   RSBI: 56
   PIP: 11 cmH2O
   SpO2: 95%
   ABG: ///40/
   Ve: 10.4 L/min
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
2/6 SEM
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.3 g/dL
   397 K/uL
   121 mg/dL
   0.4 mg/dL
   40 mEq/L
   3.4 mEq/L
   15 mg/dL
   103 mEq/L
   149 mEq/L
   29.4 %
   10.5 K/uL
        [image002.jpg]
                             [**2156-1-11**]  06:42 PM
                             [**2156-1-11**]  08:01 PM
                             [**2156-1-11**]  11:07 PM
                             [**2156-1-12**]  04:23 AM
                             [**2156-1-12**]  04:39 AM
                             [**2156-1-12**]  11:36 AM
                             [**2156-1-13**]  04:37 AM
                             [**2156-1-14**]  03:44 AM
   WBC
   19.9
   11.8
   9.7
   10.5
   Hct
   34.2
   26.8
   26.7
   29.4
   Plt
   [**Telephone/Fax (3) 5530**]97
   Cr
   0.6
   0.4
   0.4
   0.4
   TCO2
   38
   34
   32
   34
   Glucose
   126
   89
   71
   121
   Other labs: PT / PTT / INR:31.7/31.4/3.3, ALT / AST:14/32, Alk Phos / T
   Bili:174/0.3, Differential-Neuts:89.4 %, Lymph:4.9 %, Mono:4.3 %,
   Eos:1.2 %, Lactic Acid:0.8 mmol/L, Albumin:3.4 g/dL, LDH:390 IU/L,
   Ca++:7.9 mg/dL, Mg++:2.2 mg/dL, PO4:2.4 mg/dL
   Microbiology: BAL-2+ PMN's, no organisms
   Pleural Fluid-Transudative
   Assessment and Plan
   65 yo male with h/o SCCA tounge with mets now admitted with respiratory
   failure, likely secondary to aspiration pneumonitis.  He has shown
   substantial improvement with Rx for aspiration pneumonia and now is s/p
   extubation with reasonable stability or respiratory status following
   ETT removal.
   1) RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])-
   -Close chest PT and suctioning
   -OOB to chair if possible
and will encourage chest PT and suctioning
   -O2 to wean as possible
   -Does have diagnosis of chronic obstructive pulmonary disease but do
   need to confirm extent and severity and would favor repeat ABG today to
   establish baseline and goals for ventilation.
   2)PNEUMONIA, ASPIRATION-
   -Continue with Vanco/Zosyn
   -Follow up BAL final results but no organisms seen
 IMPAIRED SKIN INTEGRITY
 ATRIAL FLUTTER (AFLUTTER)
   -Lopressor for rate control
   ICU Care
   Nutrition: NPO for now and will move as possible to po intake with S+S
   today
   Glycemic Control:
   Lines:
   18 Gauge - [**2156-1-11**] 06:38 PM
   20 Gauge - [**2156-1-12**] 12:38 AM
   Prophylaxis:
   DVT: INR elevated
return to coumadin when decreased
   Stress ulcer: Extubated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   ------ Protected Section ------
   Effusion incorrectly reported as transudative
is correctly a simple
   exudative effusion.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2156-1-14**] 10:58 ------

2156-01-15 07:53:00 Physician Resident Progress Note
Chief Complaint: This is a 65 year-old male with a history of SCC of
   the tounge found to have mets s/p Cetuximab, afib, COPD, CHF EF 35-40%,
   who was admitted to OMED for pneumonia, likely aspiration, intubated
   for respiratory distress on [**2156-1-11**].
   24 Hour Events:
 UNPLANNED EXTUBATION (PATIENT-INITIATED) - At [**2156-1-14**] 08:40 AM
 INVASIVE VENTILATION - STOP [**2156-1-14**] 08:40 AM
   - Pt self-extubated this am. ABG after extubation with pure metabolic
   alkylosis. Thought to be dry
   -speech and swallow eval ordered for am- pt coughed when given fluids
   to drink by nurse
   -Given 1L D5W for Na 149 in the afternoon.
   -ordered D51/2NS +40 KCL at 125cc/hr after pm lytes showed Na of 145, K
   repleted
   - Pt continues to have AMS with orientation x2, diffuse weakness in
   evening. Ordered Head CT, sent U/A, ABG.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2156-1-13**] 09:31 AM
   Cefipime - [**2156-1-13**] 10:30 AM
   Piperacillin/Tazobactam (Zosyn) - [**2156-1-14**] 08:50 AM
   Vancomycin - [**2156-1-14**] 08:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-1-15**] 07:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36
C (96.8
   HR: 81 (74 - 110) bpm
   BP: 190/72(99) {118/28(62) - 190/113(121)} mmHg
   RR: 36 (19 - 36) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 73 Inch
             Total In:
                                                                  2,997 mL
                                                                    688 mL
   PO:
                                                                     60 mL
             TF:
                                                                    274 mL
   IVF:
                                                                  2,664 mL
                                                                    688 mL
   Blood products:
   Total out:
                                                                  1,475 mL
                                                                    255 mL
   Urine:
                                                                  1,475 mL
                                                                    255 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,522 mL
                                                                    433 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Face tent
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 415 (415 - 415) mL
   PS : 5 cmH2O
   RR (Spontaneous): 22
   PEEP: 0 cmH2O
   FiO2: 35%
   SpO2: 93%
   ABG: 7.22/105/72/39/10
   Ve: 10.4 L/min
   PaO2 / FiO2: 72
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : )
   Abdominal: Soft, Non-tender
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   397 K/uL
   9.3 g/dL
   197 mg/dL
   0.4 mg/dL
   39 mEq/L
   3.1 mEq/L
   12 mg/dL
   92 mEq/L
   147 mEq/L
   32
   10.5 K/uL
        [image002.jpg]
                             [**2156-1-12**]  04:23 AM
                             [**2156-1-12**]  04:39 AM
                             [**2156-1-12**]  11:36 AM
                             [**2156-1-13**]  04:37 AM
                             [**2156-1-14**]  03:44 AM
                             [**2156-1-14**]  03:09 PM
                             [**2156-1-14**]  06:07 PM
                             [**2156-1-14**]  11:02 PM
                             [**2156-1-15**]  06:41 AM
                             [**2156-1-15**]  07:09 AM
   WBC
   11.8
   9.7
   10.5
   Hct
   26.8
   26.7
   29.4
   32
   Plt
   [**Telephone/Fax (3) 5546**]
   Cr
   0.4
   0.4
   0.4
   0.4
   TCO2
   32
   34
   41
   41
   46
   45
   Glucose
   89
   71
   121
   101
   197
   Other labs: PT / PTT / INR:31.7/31.4/3.3, ALT / AST:14/32, Alk Phos / T
   Bili:174/0.3, Differential-Neuts:89.4 %, Lymph:4.9 %, Mono:4.3 %,
   Eos:1.2 %, Lactic Acid:1.6 mmol/L, Albumin:3.4 g/dL, LDH:390 IU/L,
   Ca++:7.9 mg/dL, Mg++:2.2 mg/dL, PO4:2.4 mg/Dl
   Assessment and Plan
   This is a 65 year-old male with a history of SCC of the tounge found to
   have mets s/p Cetuximab, afib, COPD, CHF EF 35-40%, who was admitted to
   OMED for pneumonia, likely aspiration, intubated for respiratory
   distress on [**2156-1-11**].
   # Respiratory Failure:  Intubated on [**2156-1-11**] because of hypercapneic
   respiratory failure, likely secondary to pneumonia versus alternate
   interstitial process.  Had left pleural effusion and multifocal
   bilateral airspace opacities on chest CT on [**2156-1-10**].  Weaned off
   ventilator and self-extubated  on [**1-14**] but worsened over course of day
   and had acute hypercapneic respiratory failure and mental status
   changes overnight into [**1-15**], possibly secondary to aspiration
   pneumonitis/pneumonia (coughed with fluid intake) vs atelectasis.
   Having copious sputums again.  No cultures yet positive.  Leukocytosis
   improving. BAL [**1-12**] with NGTD as is thoracentesis from [**1-13**].
   - sputum cx
   - cont vanco/Zosyn  to cover for aspiration and HAP
   - cont  standing nebs
   - AMS evaluation as below
   # Altered mental status:  Likely secondary to hypercapneic respiratory
   failure but CVA vs metastatic disease are also possiblities.
   - check head CT
   # CHF- EF 35-45% in [**2152**];  Echo [**1-13**] with no major change- 30-40% LVEF.
   Mild MR.
   - cont b-blocker- metprolol at  100 TID, dig, statin.
   - Consider restarting lisinopril if hypertensive today
   - hold nitrates for BP
    # ? COPD: only on albuterol as outpt. Last spirometry in 06 more c/w
   restrictive rather than obstructive disease. Minimal wheezing on exam,
   but likely due to the significant PNA.
   - standing nebs for now
   - no steroids for now; monitor clinical status
    # Atrial Fibrillation- on amio and metoprolol (toprol XL at home).
   also on coumadin at home. Supra therapeutic INR 3.3 today
   - cont amio, dig, and toprol.
   - holding coumadin until INR comes down
   # Hyperkalemia- Now resolved. Will monitor.
   # Access: 2 PIV .
   # PPx: therapeutic INR; PPI
   # Code: FULL CODE; living will in place- per partner, would not want
   long term artificial support.
   # Dispo: ICU for now
   # Comm: partner [**Name (NI) **] ph# [**Telephone/Fax (1) 5470**]- talked with him today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2156-1-14**] 10:00 PM
   Prophylaxis:
   DVT:  supratherapeutic INR
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2156-01-15 09:36:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 UNPLANNED EXTUBATION (PATIENT-INITIATED) - At [**2156-1-14**] 08:40 AM
 INVASIVE VENTILATION - STOP [**2156-1-14**] 08:40 AM
   Patient with progressive hypercarbia and altered mental status across
   the day.
   7.22/105/72 was ABG just prior to intubation
   He had significant respiratory distress and tachypnea prior to
   re-intubation.
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2156-1-13**] 09:31 AM
   Cefipime - [**2156-1-13**] 10:30 AM
   Piperacillin/Tazobactam (Zosyn) - [**2156-1-14**] 08:50 AM
   Vancomycin - [**2156-1-15**] 08:25 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-1-15**] 09:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.4
C (97.5
   HR: 100 (74 - 110) bpm
   BP: 130/74(99) {118/28(62) - 190/113(121)} mmHg
   RR: 16 (16 - 36) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 73 Inch
             Total In:
                                                                  2,999 mL
                                                                  2,363 mL
   PO:
                                                                     60 mL
             TF:
                                                                    274 mL
   IVF:
                                                                  2,666 mL
                                                                  2,363 mL
   Blood products:
   Total out:
                                                                  1,475 mL
                                                                    290 mL
   Urine:
                                                                  1,475 mL
                                                                    290 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,524 mL
                                                                  2,073 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 26 cmH2O
   Plateau: 21 cmH2O
   Compliance: 31.3 cmH2O/mL
   SpO2: 100%
   ABG: 7.38/71/230/39/13
   Ve: 7.6 L/min
   PaO2 / FiO2: 460
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: No(t)
   Resonant : , Dullness : ), (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.3 g/dL
   397 K/uL
   210 mg/dL
   0.4 mg/dL
   39 mEq/L
   2.8 mEq/L
   12 mg/dL
   94 mEq/L
   142 mEq/L
   32
   10.5 K/uL
        [image002.jpg]
                             [**2156-1-12**]  04:39 AM
                             [**2156-1-12**]  11:36 AM
                             [**2156-1-13**]  04:37 AM
                             [**2156-1-14**]  03:44 AM
                             [**2156-1-14**]  03:09 PM
                             [**2156-1-14**]  06:07 PM
                             [**2156-1-14**]  11:02 PM
                             [**2156-1-15**]  06:41 AM
                             [**2156-1-15**]  07:09 AM
                             [**2156-1-15**]  08:59 AM
   WBC
   9.7
   10.5
   Hct
   26.7
   29.4
   32
   Plt
   334
   397
   Cr
   0.4
   0.4
   0.4
   TCO2
   32
   34
   41
   41
   46
   45
   44
   Glucose
   71
   121
   101
   197
   210
   Other labs: PT / PTT / INR:31.7/31.4/3.3, ALT / AST:14/32, Alk Phos / T
   Bili:174/0.3, Differential-Neuts:89.4 %, Lymph:4.9 %, Mono:4.3 %,
   Eos:1.2 %, Lactic Acid:1.0 mmol/L, Albumin:3.4 g/dL, LDH:390 IU/L,
   Ca++:7.9 mg/dL, Mg++:2.2 mg/dL, PO4:2.4 mg/dL
   Imaging: CXR--Increaed lung volumes.  RUL opacity and LLL opacity
   persistent.  Suggestion of left sided effusion +/- consolidation.  ETT
   at 4 cm above carina.
   Assessment and Plan
   65 yo male with history of SCCA-tounge with mets and now with failure
   to tolerate exbutation.  This is in the setting of reasonably high
   volume of pulmonary secretions despite patient OOB and with aggressive
   suctioning and pulmonary toilet across the day.  He evolved tachpnea,
   tachycardia and was intubated with hypercarbic respiratory failure in
   that setting once mental status had deteriorated significantly.  His
   recurrent respiratory failure is likley attributable to his multifocal
   infiltrates which may well be related to aspiration pneumonitis and
   pneumonia which in the setting of tachypnea and likley dynamic
   hyperinflation in the setting of known COPD resulted in hypecarbic
   respiratory failure.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
he has findings on
   mechanical ventilation this morning of PIP=24 and plateau at 18 with
   expiratory flow return to zero he has minimal evidence of persistent
   and significant airflow obstruction.  In the setting of tachypnea
   experienced with aspiraiton events and hypoxemic driven respiratory
   distres this may have led to CO2 elevation acutely and with
   re-intubation resulting from increased
Zone 1
 physiology in the
   setting of dynamic hyperinflation with significant tachypnea.  In the
   setting of further EtCO2 elevations patient with altered mental
   status.  Now he will need continued Rx with
   -Vanco/Zosyn
   -Pulmonary toilet
   -Repeat Sputum culture
   -Will need to consider tracheostomy for continued support if patient
   unable to manage secretions and clear adeuquately while extubated
   -Standing bronchodilators but will hold on systemic steroids.
   -Wean FIO2 today
 PNEUMONIA, ASPIRATION
   -Vanco/Zosyn
   -NPO following extubation
 IMPAIRED SKIN INTEGRITY
 ATRIAL FLUTTER (AFLUTTER)
   -Digoxin
   -Amiodarone
   -Altered Mental Status-
   PCO2, Na+ has improved and would expect MS to follow
   -Sedation as needed
   ICU Care
   Nutrition: Tube Feeds
   Glycemic Control:
   Lines:
   20 Gauge - [**2156-1-14**] 10:00 PM-_Will need CVL for access
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill

2156-01-16 07:12:00 Physician Resident Progress Note
Chief Complaint: resp failure
   24 Hour Events:
 PICC LINE - START [**2156-1-15**] 02:00 PM
   -Re-intubated in a.m. because of hypercapnic respiratory failure
   -Head CT w/ contrast wet read was neg for acute process
   -Got metoprolol 5mg IV x 1 for afib with RVR to 120s.
   -Had PICC placed
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2156-1-13**] 09:31 AM
   Cefipime - [**2156-1-13**] 10:30 AM
   Vancomycin - [**2156-1-15**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2156-1-16**] 12:00 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2156-1-16**] 02:00 AM
   Fentanyl - [**2156-1-16**] 02:00 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems:  unable to obtain [**1-12**] sedation
   Flowsheet Data as of  [**2156-1-16**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.8
C (98.2
   HR: 138 (97 - 138) bpm
   BP: 147/80(96) {103/58(70) - 176/96(108)} mmHg
   RR: 18 (15 - 24) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 73 Inch
             Total In:
                                                                  4,625 mL
                                                                    338 mL
   PO:
             TF:
   IVF:
                                                                  3,965 mL
                                                                    278 mL
   Blood products:
   Total out:
                                                                  1,120 mL
                                                                    230 mL
   Urine:
                                                                  1,120 mL
                                                                    230 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,505 mL
                                                                    108 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 440 (440 - 500) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 21 cmH2O
   Plateau: 19 cmH2O
   Compliance: 31.4 cmH2O/mL
   SpO2: 100%
   ABG: 7.43/60/95.[**Numeric Identifier 143**]/37/12
   Ve: 7.9 L/min
   PaO2 / FiO2: 240
   Physical Examination
   General Appearance: No acute distress, Thin
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), irreg
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: at left base)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   405 K/uL
   9.0 g/dL
   108 mg/dL
   0.4 mg/dL
   37 mEq/L
   3.5 mEq/L
   11 mg/dL
   105 mEq/L
   145 mEq/L
   28.9 %
   14.8 K/uL
        [image002.jpg]
                             [**2156-1-15**]  08:59 AM
                             [**2156-1-15**]  12:40 PM
                             [**2156-1-15**]  02:33 PM
                             [**2156-1-15**]  06:42 PM
                             [**2156-1-15**]  06:59 PM
                             [**2156-1-15**]  08:07 PM
                             [**2156-1-16**]  02:29 AM
                             [**2156-1-16**]  04:03 AM
                             [**2156-1-16**]  04:05 AM
                             [**2156-1-16**]  04:28 AM
   WBC
   12.8
   14.8
   Hct
   27.9
   28.9
   Plt
   409
   405
   Cr
   0.4
   0.5
   0.4
   TCO2
   44
   41
   43
   38
   42
   43
   41
   Glucose
   [**Telephone/Fax (3) 5584**]
   Other labs: PT / PTT / INR:42.3/30.2/4.6, ALT / AST:14/32, Alk Phos / T
   Bili:174/0.3, Differential-Neuts:92.3 %, Lymph:4.8 %, Mono:2.7 %,
   Eos:0.1 %, Lactic Acid:1.2 mmol/L, Albumin:3.4 g/dL, LDH:390 IU/L,
   Ca++:8.2 mg/dL, Mg++:2.0 mg/dL, PO4:1.2 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 PNEUMONIA, ASPIRATION
 IMPAIRED SKIN INTEGRITY
 ATRIAL FLUTTER (AFLUTTER)
   This is a 65 year-old male with a history of SCC of the tounge found to
   have mets s/p Cetuximab, afib, COPD, CHF EF 35-40%, who was admitted to
   OMED for pneumonia, likely aspiration, intubated for respiratory
   distress on [**2156-1-11**].
   # Respiratory Failure:  Intubated on [**2156-1-11**] because of hypercapneic
   respiratory failure, likely secondary to pneumonia versus alternate
   interstitial process.  Had left pleural effusion and multifocal
   bilateral airspace opacities on chest CT on [**2156-1-10**].  Weaned off
   ventilator and self-extubated  on [**1-14**] but worsened over course of day
   and had acute hypercapneic respiratory failure and mental status
   changes overnight into [**1-15**], possibly secondary to aspiration
   pneumonitis/pneumonia (coughed with fluid intake) vs atelectasis.
   Having copious sputums again.  No cultures yet positive.  Leukocytosis
   improving. BAL [**1-12**] with NGTD as is thoracentesis from [**1-13**].
   - sputum cx
   - cont vanco/Zosyn  to cover for aspiration and HAP
   - cont  standing nebs
   - AMS evaluation as below
    # Altered mental status:  Likely secondary to hypercapneic respiratory
   failure but CVA vs metastatic disease are also possiblities.
   - check head CT
   # CHF- EF 35-45% in [**2152**];  Echo [**1-13**] with no major change- 30-40% LVEF.
   Mild MR.
   - cont b-blocker- metprolol at  100 TID, dig, statin.
   - Consider restarting lisinopril if hypertensive today
   - hold nitrates for BP
    # ? COPD: only on albuterol as outpt. Last spirometry in 06 more c/w
   restrictive rather than obstructive disease. Minimal wheezing on exam,
   but likely due to the significant PNA.
   - standing nebs for now
   - no steroids for now; monitor clinical status
    # Atrial Fibrillation- on amio and metoprolol (toprol XL at home).
   also on coumadin at home. Supra therapeutic INR 3.3 today
   - cont amio, dig, and toprol.
   - holding coumadin until INR comes down
    # Hyperkalemia- Now resolved. Will monitor.
   # Access: 2 PIV .
   # PPx: therapeutic INR; PPI
   # Code: FULL CODE; living will in place- per partner, would not want
   long term artificial support.
   # Dispo: ICU for now
   # Comm: partner [**Name (NI) **] ph# [**Telephone/Fax (1) 5470**]- talked with him today
   ICU Care
   Nutrition: TF ordered
   Glycemic Control:  Blood sugar well controlled
   Lines:
   PICC Line - [**2156-1-15**] 02:00 PM
   22 Gauge - [**2156-1-15**] 03:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2156-01-16 10:35:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PICC LINE - START [**2156-1-15**] 02:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2156-1-13**] 10:30 AM
   Piperacillin/Tazobactam (Zosyn) - [**2156-1-16**] 08:00 AM
   Vancomycin - [**2156-1-16**] 08:30 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2156-1-16**] 02:00 AM
   Fentanyl - [**2156-1-16**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever, Low grade
   Flowsheet Data as of  [**2156-1-16**] 10:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.1
C (98.8
   HR: 114 (97 - 138) bpm
   BP: 137/62(83) {103/58(70) - 176/96(108)} mmHg
   RR: 16 (15 - 24) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 73 Inch
             Total In:
                                                                  4,625 mL
                                                                    828 mL
   PO:
             TF:
   IVF:
                                                                  3,965 mL
                                                                    648 mL
   Blood products:
   Total out:
                                                                  1,120 mL
                                                                    325 mL
   Urine:
                                                                  1,120 mL
                                                                    325 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,505 mL
                                                                    503 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 440 (440 - 500) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 23 cmH2O
   Plateau: 19 cmH2O
   Compliance: 31.4 cmH2O/mL
   SpO2: 98%
   ABG: 7.43/60/95.[**Numeric Identifier 143**]/37/12
   Ve: 6.7 L/min
   PaO2 / FiO2: 240
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.0 g/dL
   405 K/uL
   108 mg/dL
   0.4 mg/dL
   37 mEq/L
   3.5 mEq/L
   11 mg/dL
   105 mEq/L
   145 mEq/L
   28.9 %
   14.8 K/uL
        [image002.jpg]
                             [**2156-1-15**]  08:59 AM
                             [**2156-1-15**]  12:40 PM
                             [**2156-1-15**]  02:33 PM
                             [**2156-1-15**]  06:42 PM
                             [**2156-1-15**]  06:59 PM
                             [**2156-1-15**]  08:07 PM
                             [**2156-1-16**]  02:29 AM
                             [**2156-1-16**]  04:03 AM
                             [**2156-1-16**]  04:05 AM
                             [**2156-1-16**]  04:28 AM
   WBC
   12.8
   14.8
   Hct
   27.9
   28.9
   Plt
   409
   405
   Cr
   0.4
   0.5
   0.4
   TCO2
   44
   41
   43
   38
   42
   43
   41
   Glucose
   [**Telephone/Fax (3) 5584**]
   Other labs: PT / PTT / INR:42.3/30.2/4.6, ALT / AST:15/24, Alk Phos / T
   Bili:155/0.3, Differential-Neuts:92.3 %, Lymph:4.8 %, Mono:2.7 %,
   Eos:0.1 %, Lactic Acid:1.2 mmol/L, Albumin:2.7 g/dL, LDH:319 IU/L,
   Ca++:8.2 mg/dL, Mg++:2.0 mg/dL, PO4:1.2 mg/dL
   Imaging: CT-Head--no acute mass or bleed.
   CXR-Rigth sided PICC is central--we have
   Assessment and Plan
   65 yo male with SCCA tounge and now with recurrent respiratory failue
   secondary to altered mental status, continued high volume of secretions
   and severe hypercarbia.  This may be related to tachypnea in the
   setting of hypoxemia and aspiration contributing to dynamic
   hyperinflation and re-intubated with hypercarbia and altered mental
   status primarily.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
This is now more clearly
   and quite likely related to both aspiration, multifocal opacities and
   now with significant neuromuscular weakness an associated condition
   which is driving the recurrent hypercarbia and today on rounds he has a
   NIF of -11
Severely impaired.
   -Will continue with Vanco/Zosyn Rx
   -Infiltrates improved modestly
   -NIF of -11 concerning for weakness driving what may well be likely
   continued and persistent requirement for ventilatory support.
   -If we move to extubation it would be a path of expected intermittent
   support from non-invasive ventilation and likely need for MIE for
   support of clearance of secreations.
   -Tracheostomy would be possible but this has been described as
   un-attractive as an option for the patient
s care going forward
 PNEUMONIA, ASPIRATION-
   -Vanco/Zosyn
 IMPAIRED SKIN INTEGRITY
   _Coagulopathy
will repeat INR, will check LFT
 ATRIAL FLUTTER (AFLUTTER)
   -Amiodarone/Digoxin/Lopressor
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2156-1-15**] 02:00 PM
   22 Gauge - [**2156-1-15**] 03:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill